US09216943B2
Preparation of 4-Octylphenethyl Acetate
4-Octanoylphenethyl acetate (17.6 g) and trifluoroacetic acid (31 mL) are charged into a 250 mL single neck round bottom flask equipped with a guard tube and stirred for a few minutes. Triethylsilane (25.7 mL) is added and the mixture is stirred overnight at room temperature. The mixture is poured onto crushed ice and then extracted with ethyl acetate (3×100 mL). The organic layer is washed with sodium bicarbonate (200 mL), then with brine solution, dried with sodium sulphate, and concentrated under vacuum to give crude as brown color liquid. The crude is purified by silica gel column using hexane as the eluent to give the title compound. Yield 10 g

reactant | 4-Octanoylphenethyl acetate | 17.6 g | C(C)(=O)OCCC1=CC=C(C=C1)C(CCCCCCC)=O | C18H26O3
reactant | trifluoroacetic acid | 31 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | Triethylsilane | 25.7 mL | C(C)[SiH](CC)CC | C6H16Si
product | 4-Octylphenethyl Acetate | C(C)(=O)OCCC1=CC=C(C=C1)CCCCCCCC | C18H28O2
